US07220862B2
6-Hydroxy-3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one
3-(1-Benzyl-piperidin-4-yl)-6-hydroxy-3,4-dihydro-1H-quinazolin-2-one (100 mg, 0.3 mmol) in methanol (5 mL) was flushed with nitrogen, and treated with palladium on charcoal (10%, 10 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated. Column chromatography gave 60 mg (81%) of the desired material. LC/MS: tR=0.75 min, 248.22 (MH)+.

reactant | 3-(1-Benzyl-piperidin-4-yl)-6-hydroxy-3,4-dihydro-1H-quinazolin-2-one | 0.3 mmol, 100 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=CC=C(C=C2C1)O)=O | C20H23N3O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | 6-Hydroxy-3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 60 mg, 81% | OC=1C=C2CN(C(NC2=CC1)=O)C1CCNCC1 | C13H17N3O2
